US08445684B2
3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethyl Chloride
To a solution of 3-[2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethanol, LiCl (1-4 equiv.), and 2,6-lutidine (1-2 equiv.) in DMF is added with stirring, cooling, and exclusion of moisture methanesulfonyl chloride (1-1.5 equiv.). The reaction mixture is stirred at ambient or elevated temperature until the alcohol and the intermediate mesylate have disappeared. The solvent is then distilled into a cooled receiver in an oil pump vacuum. The residue is diluted with EtOAc and aqueous NaHCO3 solution. The phases are separated. The organic phase is washed with brine, dried over MgSO4, and evaporated, and the residue is used directly in the subsequent step. A purer product is obtained by filtration over silica gel with EtOAc or a mixture of EtOAc with a nonpolar solvent. The product is not stable in storage and should be carried forward promptly.

reactant | 3-[2-[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CO | C23H30N2O4
reactant | LiCl | 1-4 equiv. | [Li+].[Cl-]
reactant | 2,6-lutidine | 1-2 equiv. | N1=C(C=CC=C1C)C | C7H9N
reactant | methanesulfonyl chloride | 1-1.5 equiv. | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[2-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethyl]phenylmethyl Chloride | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)CCC=1C=C(C=CC1)CCl | C23H29ClN2O3
